US04436748
To a solution of 2.76 g of 2-fluoroacetophenone in 50 ml of ether is added dropwise over 30 minutes a solution of 3.2 g of bromine in 10 ml of chloroform. Evaporation of the reaction mixture under reduced pressure affords α-bromo-2-fluoroacetophenone.

reactant | 2-fluoroacetophenone | 2.76 g | FCC(=O)C1=CC=CC=C1 | C8H7FO
reactant | bromine | 3.2 g | BrBr | Br2
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | α-bromo-2-fluoroacetophenone | BrC(C(=O)C1=CC=CC=C1)F | C8H6BrFO
